US05629406
1-{(2S,3S)-3-[N2 -(3-Benzyloxycarbonylaminophenoxy)acetyl-L- -asparaginyl]amino-2-hydroxy-4-phenylbutyryl}-N-t-butyl-L-prolinamide
Following a procedure similar to that described in Example 14, but using 0.45 g (0.91 mmol) of 1-[(2S,3S)-3-L-asparaginylamino-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide hydrochloride and 0.30 g (1.00 mmol) of 3-benzyloxycarbonylaminophenoxyacetic acid, 0.34 g of the title compound were obtained as a colorless powder, melting at 107°-117° C.

reactant | 1-[(2S,3S)-3-L-asparaginylamino-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide hydrochloride | 0.91 mmol, 0.45 g | Cl.N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C)(C)C)CCC1)O)CC1=CC=CC=C1
reactant | 3-benzyloxycarbonylaminophenoxyacetic acid | 1.00 mmol, 0.30 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C(OCC(=O)O)C=CC1 | C16H15NO5
product | 1-{(2S,3S)-3-[N2 -(3-Benzyloxycarbonylaminophenoxy)acetyl-L- -asparaginyl]amino-2-hydroxy-4-phenylbutyryl}-N-t-butyl-L-prolinamide | 0.34 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C(OCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N2[C@H](C(=O)NC(C)(C)C)CCC2)O)CC2=CC=CC=C2)C=CC1 | C39H48N6O9
